US04558140
Optically Active (5Z,11alpha,13E,15R)-15-hydroxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid
A solution of optically active (5Z,11alpha,13E,15R)-15-acetyloxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid methyl ester (3.2 g) in methanol (32 mL) was treated with 4N NaOH (6.4 mL) and stirred under argon for 20 hours. The solution was acidified with 2N HCl and the product recovered by ethyl acetate extraction. There was thus obtained 3.0 g (~100%) of crude optically active (5Z,11alpha,13E,15R)-15-hydroxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid as a yellow oil.

reactant | (5Z,11alpha,13E,15R)-15-acetyloxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid methyl ester | 3.2 g | COC(CCC\C=C/C[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](C(CCCC)(C)C)OC(C)=O)C)=O)=O | C26H42O5
reactant | NaOH | 4N, 6.4 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 32 mL | CO | CH4O
product | (5Z,11alpha,13E,15R)-15-hydroxy-11,16,16-trimethyl-9-oxoprosta-5,13-dien-1-oic acid | O[C@H](/C=C/[C@H]1[C@@H](CC([C@@H]1C\C=C/CCCC(=O)O)=O)C)C(CCCC)(C)C | C23H38O4
